US07598257B2
A mixture of 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentane-1,5-diol (50 mg, 0.0001 mol) in DCM (2 mL, 0.03 mol) was cooled at 0° C. To this mixture, TEA (50 μL, 0.0004 mol) was added. The reaction was stirred for 15 minutes. Methanesulfonyl chloride (23 μL, 0.00030 mol) was added and the resulting mixture was stirred for 1 hour. Water was added and the product was extracted with ethyl acetate. The combined extracts were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated to give 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-pentane-1,5-diyl dimethanesulfonate (57 mg, 80%) as an oil. MS(ES): 574 (M+1).

reactant | 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentane-1,5-diol | 0.0001 mol, 50 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CCO)CCO)(C)C | C20H31N5O3Si
reactant | DCM | 0.03 mol, 2 mL | C(Cl)Cl | CH2Cl2
reactant | Methanesulfonyl chloride | 0.00030 mol, 23 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | Water | O | H2O
product | 3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-pentane-1,5-diyl dimethanesulfonate | 57 mg, 80% | CS(=O)(=O)OCCC(CCOS(=O)(=O)C)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C22H35N5O7S2Si
